US04650810
(i) 3-[2-[[(Phenylmethoxy)Carbonyl]amino]ethyl]-1H-indole-5-acetamide
A solution of 3-[2-(1,3-dihydro-1,3-dioxo-2H-isoindol-2-yl)ethyl]-1H-indole-5-acetamide (17.55 g) and hydrazine hydrate (12 ml) in ethanol (700 ml) was heated at reflux for 2 h. The resulting suspension was cooled to ambient temperature and all the solvent was evaporated in vacuo. The resulting yellow solid was dissolved in dilute sodium hydroxide (250 ml) and tetrahydrofuran (100 ml) and treated with benzylchloroformate (21 ml) at 5°. Stirring was continued for 1 h at ambient temperature, reaction mixture extracted with ethylacetate (4×200 ml), dried (MgSO4) and solvent removed to give crude product as an oil which on trituration with ethylacetate gave the title compound as a white solid (6.4 g) m.p. 124°-5°.

reactant | 3-[2-(1,3-dihydro-1,3-dioxo-2H-isoindol-2-yl)ethyl]-1H-indole-5-acetamide | 17.55 g | O=C1N(C(C2=CC=CC=C12)=O)CCC1=CNC2=CC=C(C=C12)CC(=O)N | C20H17N3O3
reactant | hydrazine hydrate | 12 ml | O.NN
solvent | ethanol | 700 ml | C(C)O | C2H6O
product | 3-[2-[[(Phenylmethoxy)Carbonyl]amino]ethyl]-1H-indole-5-acetamide | 6.4 g | C1(=CC=CC=C1)COC(=O)NCCC1=CNC2=CC=C(C=C12)CC(=O)N | C20H21N3O3
